US07560558B2
6-Methoxy-7-methyl-1H-quinazolin-4-one (275 mg) was suspended in N,N-diisopropylethylamine (3.78 ml), phosphorus oxychloride (0.3 ml) was added to the suspension, and the mixture was stirred at 100° C. for 6 hr. The reaction solution was added in small portions to water of 0° C., an aqueous sodium hydrogencarbonate solution was further added thereto, and the mixture was extracted with chloroform. The chloroform layer was then washed with saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using chloroform-methanol to give 4-chloro-6-methoxy-7-methyl-quinazoline (199 mg, yield 66%).

reactant | 6-Methoxy-7-methyl-1H-quinazolin-4-one | 275 mg | COC=1C=C2C(N=CNC2=CC1C)=O | C10H10N2O2
reactant | phosphorus oxychloride | 0.3 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | O | H2O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-diisopropylethylamine | 3.78 ml | C(C)(C)N(C(C)C)CC | C8H19N
product | 4-chloro-6-methoxy-7-methyl-quinazoline | 199 mg, yield 66% | ClC1=NC=NC2=CC(=C(C=C12)OC)C | C10H9ClN2O
